US07273882B2
To a rapidly stirred suspension of S-Methylisothiourea hemisulfate (60.8 g, 0.437 mol) in CH2Cl2 (600 mL) was added 2N NaOH (300 mL, 0.6 mol). This was cooled to 0° C. on an ice bath, and a solution of di-tert-butyl dicarbonate (43.2 g, 0.198 mol) was added dropwise over 6 h. Upon completion of the addition, the mixture was stirred an additional 20 min, diluted with 1 L CH2Cl2 and the phases were separated. The organic portion was washed with water (2×500 ml) and dried over Na2SO4. Filtration and concentration provided the desired tert-butyl methylthiocarbonoimidoylcarbamate as a white solid (35.5 g, 0.87 mol, 94% yield based on Boc2O).

reactant | S-Methylisothiourea hemisulfate | 0.437 mol, 60.8 g | S(=O)(=O)(O)O.CSC(N)=N.CSC(N)=N
reactant | NaOH | 0.6 mol, 2N, 300 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 0.198 mol, 43.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 600 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 L | C(Cl)Cl | CH2Cl2
product | tert-butyl methylthiocarbonoimidoylcarbamate | 94% yield | CSC(=N)NC(OC(C)(C)C)=O | C7H14N2O2S
